US05017724
10 Grams of 5,7-dimethyl-8-methoxy-1,2,3,4,4a,9a-hexahydro-9-fluorenone was dissolved in 45 ml of acetonitrile and to the solution were gradually added 12.14 g of sodium iodide and 10.79 g of freshly ground aluminum chloride. After stirring at room temperature for 1.5 hour, the reaction mixture was poured into water and extracted with dichloromethane. The organic layer was dried with magnesium sulfate and then the solvent was distilled off. The residue was purified by a silica gel column chromatography (eluent: ethyl acetate:n-hexane=1:20) and thereafter recrystallized from ethanol to obtain 9.34 g of 5,7-dimethyl-8-hydroxy-1,2,3,4,4a,9a-hexahydro-9-fluorenone

reactant | 5,7-dimethyl-8-methoxy-1,2,3,4,4a,9a-hexahydro-9-fluorenone | CC1=C2C3CCCCC3C(C2=C(C(=C1)C)OC)=O | C16H20O2
reactant | sodium iodide | 12.14 g | [I-].[Na+]
reactant | aluminum chloride | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | water | O | H2O
solvent | acetonitrile | 45 ml | C(C)#N | C2H3N
product | 5,7-dimethyl-8-hydroxy-1,2,3,4,4a,9a-hexahydro-9-fluorenone | 9.34 g | CC1=C2C3CCCCC3C(C2=C(C(=C1)C)O)=O | C15H18O2
